US06777432B1
3-[5-(4-fluoro-phenylcarbamoyl)-pyridin-2-ylsulfanyl]-propionic acid methyl ester
To a solution of 6-chloro-N-(4-fluoro-phenyl)-nicotinamide (0.25 g, 1.0 mmol) in 3 mL of THF was added methyl 3-mercaptopropionate (0.16 mL, 1.5 mmol) then potassium tert-butoxide (0.22 g, 2.0 mmol). The mixture was stirred for 3 h then poured into ice water and the solids washed with water and collected. Purification by trituration using ethyl acetate gave 13 mg (4%) of the titled product as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.33 (s, 1H), 8.94 (m,1H), 8.09 (m, 1H), 7.74 (m, 2H), 7.43 (m, 1H), 7.17 (m, 2H), 3.59 (s, 3H), 3.37 (m, 2H), 2.75 (m, 2H); MS (EI) m/z 333.10 (M−H)−.

reactant | 6-chloro-N-(4-fluoro-phenyl)-nicotinamide | 1.0 mmol, 0.25 g | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C12H8ClFN2O
reactant | methyl 3-mercaptopropionate | 1.5 mmol, 0.16 mL | SCCC(=O)OC | C4H8O2S
reactant | potassium tert-butoxide | 2.0 mmol, 0.22 g | CC(C)([O-])C.[K+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-[5-(4-fluoro-phenylcarbamoyl)-pyridin-2-ylsulfanyl]-propionic acid methyl ester | 13 mg, 4% | COC(CCSC1=NC=C(C=C1)C(NC1=CC=C(C=C1)F)=O)=O | C16H15FN2O3S
